US09120805B2
A solution of 375 mg (1.18 mmol) 1-[2-(1-tert-butyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester and 4.89 g (63.5 mmol) ammonium acetate in 4.15 ml acetic acid is stirred for 28 hours at 110° C. The reaction mixture is allowed to cool to room temperature and excess water is added. The resulting precipitate is filtered off, washed with water and dried. It is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 3-(1-tert-butyl-1H-pyrazol-4-yl)-7-methyl-2H-pyrrolo[1,2-a]pyrazin-1-one as light yellow solid; HPLC/MS 2.27 min (B), [M+H] 271;

reactant | 1-[2-(1-tert-butyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.18 mmol, 375 mg | C(C)OC(=O)C=1N(C=C(C1)C)CC(=O)C=1C=NN(C1)C(C)(C)C | C17H23N3O3
reactant | ammonium acetate | 63.5 mmol, 4.89 g | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | acetic acid | 4.15 ml | C(C)(=O)O | C2H4O2
product | 3-(1-tert-butyl-1H-pyrazol-4-yl)-7-methyl-2H-pyrrolo[1,2-a]pyrazin-1-one | C(C)(C)(C)N1N=CC(=C1)C=1NC(C=2N(C1)C=C(C2)C)=O | C15H18N4O
